US06222062B1
2-[3-(2,6,6-Trimethyl-cyclohex-1-enyl)-acryloyl]-malonic acid dihex-3-enyl ester
To a suspension of 2.10 g 60% sodium hydride in 20 ml of THF, a solution of 14.00 g malonic acid dihex-3-enyl ester in 20 ml of THF were dropped in at 0-5° C. The reaction mixture was stirred 1 hour at room temperature. Then a solution of 11.9 g 3-(2,6,6-trimethyl-cyclohex-1-enyl)-acryloyl chloride (Shimasaki et al., Chem. Pharm. Bull., 43 (1995) 1, 100-107) in 40 ml of THF was dropped in and the reaction mixture was stirred at room temperature for 21 hours. Then the reaction mixture was diluted with ether and the organic phase was washed with water, dried, filtered and evaporated to dryness. The resulting yellow oil was purified by chromatography to yield 4.22 g of a yellow oil.

reactant | sodium hydride | 2.10 g | [H-].[Na+]
reactant | malonic acid dihex-3-enyl ester | 14.00 g | C(CC=CCC)OC(CC(=O)OCCC=CCC)=O | C15H24O4
reactant | 3-(2,6,6-trimethyl-cyclohex-1-enyl)-acryloyl chloride | 11.9 g | CC1=C(C(CCC1)(C)C)C=CC(=O)Cl | C12H17ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-[3-(2,6,6-Trimethyl-cyclohex-1-enyl)-acryloyl]-malonic acid dihex-3-enyl ester | 4.22 g | C(CC=CCC)OC(C(C(=O)OCCC=CCC)C(C=CC1=C(CCCC1(C)C)C)=O)=O | C27H40O5
